US08686152B2
To a solution of 4-[1-(2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl)-4-cyclohexylcarbamoyl-piperidin-4-ylmethyl]-benzoic acid (0.201 mmol; 0.12 g) in DMF (1.5 mL) was added N,N-dimethylamine hydrochloride (0.241 mmol; 0.02 g), N,N-diisopropyl-N-ethylamine (0.502 mmol; 0.089 mL) and HBTU (0.241 mmol; 0.091 g), and the resulting mixture was stirred at room temperature overnight. The mixture was then purified via reverse phase HPLC and the desired fractions were combined and lyophilized. The resulting residue was dissolved in a 4N HCl solution in 1,4-dioxane (3 mL) and the resulting solution was stirred for 5 hours at room temperature and evaporated. The residue was triturated with diethyl ether and dried under vacuum to yield 1-(2-(S)-amino-3-thiophen-2-yl-propionyl)-4-(4-dimethylcarbamoyl-benzyl)-piperidine-4-carboxylic acid cyclohexylamide as a hydrochloride salt.

reactant | 4-[1-(2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl)-4-cyclohexylcarbamoyl-piperidin-4-ylmethyl]-benzoic acid | 0.201 mmol, 0.12 g | C(C)(C)(C)OC(=O)NC(C(=O)N1CCC(CC1)(C(NC1CCCCC1)=O)CC1=CC=C(C(=O)O)C=C1)CC=1SC=CC1 | C32H43N3O6S
reactant | N,N-dimethylamine hydrochloride | 0.241 mmol, 0.02 g | Cl.CNC
reactant | N,N-diisopropyl-N-ethylamine | 0.502 mmol, 0.089 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.241 mmol, 0.091 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-(2-(S)-amino-3-thiophen-2-yl-propionyl)-4-(4-dimethylcarbamoyl-benzyl)-piperidine-4-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1(CCN(CC1)C([C@H](CC=1SC=CC1)N)=O)CC1=CC=C(C=C1)C(N(C)C)=O | C29H40N4O3S
